US06399629B1
(A) N-tert-Butoxycarbonyl-4-Phenylbenzylamine
Diphenylphosphoryl azide (1.12 mL) and triethylamine (789 μl) were added to a solution of 4-biphenylylacetic acid (1.00 g) in 2-methyl-2-propanol (20 mL). The mixture was refluxed for 13 hr and concentrated in vacuo. The residue was diluted with ethyl acetate and washed with 1 N hydrochloric acid, water, saturated sodium hydrogen carbonate, and brine. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound (489 mg) as yellow crystals: 1H NMR (400 MHz, CDCl3) δ 1.48 (s, 9H), 4.36 (d, J=5.4 Hz, 2H), 4.87(br s, 1H), 7.26-7.27, 7.32-7.45 and 7.55-7.58 (each m, total 9H).

reactant | Diphenylphosphoryl azide | 1.12 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 789 μl | C(C)N(CC)CC | C6H15N
reactant | 4-biphenylylacetic acid | 1.00 g | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | 2-methyl-2-propanol | 20 mL | CC(C)(C)O | C4H10O
product | N-tert-Butoxycarbonyl-4-Phenylbenzylamine | 489 mg | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C1=CC=CC=C1 | C18H21NO2
